US05723473
A solution of 1-acetyl-isoquinoline (3.42 g), hydroxylamine (1.53 g) and sodium acetate (2.46 g) in a 3:1 mixture of methanol:water (80 ml) was heated to reflux for 8 hours then allowed to stand for 16 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The combined extracts were dried, concentrated and chromatographed using ethyl acetate:hexane 3:7 as the eluant to give 1-acetyl-isoquinoline oxime (1.87 g, 58% yield) as a white crystalline solid m.p. 154.4°-155.3° C.; 1H NMR: 2.50(3H,s); 7.58-7.73(3H,m); 7.85(1H,m); 8.55(1H,m); 8.57(1H,m); 8.66(1H,s) ppm.

reactant | 1-acetyl-isoquinoline | 3.42 g | C(C)(=O)C1=NC=CC2=CC=CC=C12 | C11H9NO
reactant | hydroxylamine | 1.53 g | NO | H3NO
reactant | sodium acetate | 2.46 g | C(C)(=O)[O-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
solvent | water | 80 ml | O | H2O
product | 1-acetyl-isoquinoline oxime | 1.87 g, 58% yield | C(C)(C1=NC=CC2=CC=CC=C12)=NO | C11H10N2O
